US04692442
2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-2-oxoacetic acid 2,2,2-trichloroethyl ester
3 equivalents of ozone are conveyed through a solution, cooled to -30°, of 8.4 g of 2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid 2,2,2-trichloroethyl ester in 765 ml of methyl acetate. After treating with ozone, the reaction mixture is left to stand at the same temperature for 15 minutes and then the excess ozone is removed by a nitrogen current. The reaction mixture is washed at 0° with a 10% aqueous sodium bisulphite solution and then with sodium chloride solution. After separating off, the combined aqueous phases are extracted a further 4 times with methyl acetate. The combined methyl ester solutions are dried over sodium sulphate and concentrated by evaporation in vacuo.

reactant | ozone | 3 equivalents | O=[O+][O-] | O3
reactant | 2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid 2,2,2-trichloroethyl ester | 8.4 g | ClC(COC(C(=C(C)C)N1C([C@@H]([C@H]1SC(C)=O)OC)=O)=O)(Cl)Cl | C13H16Cl3NO5S
solvent | methyl acetate | 765 ml | C(C)(=O)OC | C3H6O2
product | 2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-2-oxoacetic acid 2,2,2-trichloroethyl ester | ClC(COC(C(=O)N1C([C@@H]([C@H]1SC(C)=O)OC)=O)=O)(Cl)Cl | C10H10Cl3NO6S
